US04760140
(6R-trans)-3-[(Acetyloxy)methyl]-8-oxo-7-(1,2,4-thiadiazol-5-ylamino)-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester
A mixture of 60 mg of (6R-trans)-3-[(acetyloxy)methyl]-7-[[[[(dimethylamino)methylene]amino]thioxomethyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester, 14 mg of hydroxylamine-O-sulfonic acid and 17.14 mg of pyridine in a mixture of 3 ml of ethanol and 1 ml of methanol was stirred at room temperature. A 0.5 ml portion dioxane was added to enhance solubility. After 1 hour the mixture was concentrated, dichloromethane added to the residue, the solution washed with 10% hydrochloric acid and brine, then decolorized, filtered and evaporated, giving the desired product.

reactant | (6R-trans)-3-[(acetyloxy)methyl]-7-[[[[(dimethylamino)methylene]amino]thioxomethyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 60 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC(=S)N=CN(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N4O5S2
reactant | hydroxylamine-O-sulfonic acid | 14 mg | NOS(=O)(=O)O | H3NO4S
reactant | pyridine | 17.14 mg | N1=CC=CC=C1 | C5H5N
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | methanol | 1 ml | CO | CH4O
product | (6R-trans)-3-[(Acetyloxy)methyl]-8-oxo-7-(1,2,4-thiadiazol-5-ylamino)-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC1=NC=NS1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N4O5S2
